US07074794B2
1,4-Dioxa-8-azaspiro[4,5]decane (7.88 g) was dissolved in N-methyl-2-pyrrolidine (50 mL), and diisopropylethylamine (9.5.8 mL) and 4-fluoronitrobenzene (7.06 g) were successively added. The mixture was stirred at room temperature for 2 hr. The reaction mixture was added to iced water, and the precipitated solid was collected by filtration to give N-(4-nitrophenyl)-4-piperidone ethylene ketal (10.6 g) as a yellow powder.

reactant | 1,4-Dioxa-8-azaspiro[4,5]decane | 7.88 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-fluoronitrobenzene | 7.06 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | water | O | H2O
product | N-(4-nitrophenyl)-4-piperidone ethylene ketal | 10.6 g | C1COC2(CCN(CC2)C2=CC=C(C=C2)[N+](=O)[O-])O1 | C13H16N2O4
